US06118017
1a 3-Cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-ol.
A solution of (3-cyclopentyloxy-4-methoxyphenyl)acetonitrile (prepared as described in U.S. Pat. No. 5,631,284) (12.65 g, 54.7 mmol) in tetrahydrofuran (400 mL) and examethylphosphoramide (16 mL) at -78° C. under an argon atmosphere was first treated dropwise over 75 min with 1.4 M methyllithium in diethyl ether (47 mL, 65.6 mmol), then with epibromohydrin (5.6 mL, 65.6 mmol). The reaction was allowed to warm to room temperature and was stirred for 3 h, then was recooled to -78° C. and was treated dropwise over 0.5 h with 3.0 M methylmagnesium iodide in diethyl ether. The reaction was stirred at room temperature for 20 h, diluted with aqueous ammonium chloride and water, and was extracted three times with tertbutyl methyl ether. The organic extract was dried (magnesium sulfate), was evaporated and was partially purified by flash chromatography, eluting with 35:65 ethyl acetate:hexanes to provide a mixture of cis- and trans-3-cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-ol and cis- and trans-2-cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)-1-cyclopropylmethanol (~9: 1, by 1H-NMR) as a dark orange oil (10.01 g, 64%).

reactant | (3-cyclopentyloxy-4-methoxyphenyl)acetonitrile | C1(CCCC1)OC=1C=C(C=CC1OC)CC#N | C14H17NO2
reactant | methyllithium | 1.4 M | C[Li]
reactant | epibromohydrin | 65.6 mmol, 5.6 mL | C(Br)C1CO1 | C3H5BrO
reactant | methylmagnesium iodide | 3.0 M | C[Mg]I
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | diethyl ether | 65.6 mmol, 47 mL | C(C)OCC | C4H10O
product | 3-Cyano-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclobutan-1-ol | C(#N)C1(CC(C1)O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C17H21NO3
